US04625048
1 g of lithium aluminium hydride is added to 20 ml of absolute diethyl ether and the solution in cooled by means of an ice-bath. While stirring, a solution of 5.8 g of ethyl 2-[p-(p-fluorophenoxy)phenoxy]-propionate in 50 ml of diethyl ether is added dropwise at such a rate that the temperature does not rise above 20° C. The mixture is subsequently allowed to stir at room temperature for 1.5 hours and then cautiously poured into 100 ml of ice-cold ammonium chloride solution. The mixture is extracted twice with diethyl ether, and the extracts are washed with semi-saturated and saturated sodium chloride solution, dried over anhydrous sodium sulfate and evaporated. The yellow oily residue is distilled in a bulb-tube at 140°-142° C./0.04 Torr to yield pure 2-[p-(p-fluorophenoxy)phenoxy]-propanol.

reactant | lithium aluminium hydride | 1 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl 2-[p-(p-fluorophenoxy)phenoxy]-propionate | 5.8 g | FC1=CC=C(OC2=CC=C(OC(C(=O)OCC)C)C=C2)C=C1 | C17H17FO4
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
product | 2-[p-(p-fluorophenoxy)phenoxy]-propanol | FC1=CC=C(OC2=CC=C(OC(CO)C)C=C2)C=C1 | C15H15FO3
